* Created by KLayout
*** My special header ***

* cell tr_1um_OpenSUSI01
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15,VSS
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
.SUBCKT tr_1um_OpenSUSI01 P1 P10 P11 P12 P13 P14 P15|VSS P2 P3 P4 P5 P6 P7 P9
+ VDD
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15|VSS P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 P15|VSS OSS_FRAME
* cell instance $2 r0 *1 -352.9,300
X$2 P2 P1 P7 P9 P5 P6 P3 P4 P15|VSS nmos_array1
* cell instance $3 m90 *1 344,300
X$3 P14 P13 P12 P7 P9 P5 P6 P3 P4 pmos_array1
.ENDS tr_1um_OpenSUSI01

* cell pmos_array1
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
.SUBCKT pmos_array1 \$1 \$2 \$3 \$5 \$6 \$7 \$8 \$9 \$10
* device instance $1 r0 *1 75,0 PMOS
XM$1 \$2 \$1 \$5 \$3 PMOS L=16u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $2 r0 *1 50,0 PMOS
XM$2 \$2 \$1 \$8 \$3 PMOS L=8u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $3 r0 *1 0,0 PMOS
XM$3 \$2 \$1 \$9 \$3 PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $4 r0 *1 110,0 PMOS
XM$4 \$2 \$1 \$6 \$3 PMOS L=30u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $5 r0 *1 32,0 PMOS
XM$5 \$2 \$1 \$7 \$3 PMOS L=4u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $6 r0 *1 15,0 PMOS
XM$6 \$2 \$1 \$10 \$3 PMOS L=2u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
.ENDS pmos_array1

* cell nmos_array1
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT nmos_array1 \$1 \$2 \$4 \$5 \$6 \$7 \$8 \$9 VSS
* device instance $1 r0 *1 110,0 NMOS
XM$1 \$2 \$1 \$5 VSS NMOS L=30u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $2 r0 *1 75,0 NMOS
XM$2 \$2 \$1 \$4 VSS NMOS L=16u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $3 r0 *1 50,0 NMOS
XM$3 \$2 \$1 \$7 VSS NMOS L=8u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $4 r0 *1 32,0 NMOS
XM$4 \$2 \$1 \$6 VSS NMOS L=4u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $5 r0 *1 15,0 NMOS
XM$5 \$2 \$1 \$9 VSS NMOS L=2u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $6 r0 *1 0,0 NMOS
XM$6 \$2 \$1 \$8 VSS NMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
.ENDS nmos_array1

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
